*Title: T1 Circuit

*  Netlist

.options savecurrents
 
*The circuit components are defined below

 
Vs   n1  0  5.02924600001

Vab   0  na   0

R1   n1  n2   1.04362094375k

R2   n3  n2   2.01060713289k

R3   n2  n5   3.1012701442k

R4   n5  0   4.18822801798k 

R5   n6  n5   3.09414786857k 

R6   na  n7   2.02739936235k

R7   n7  n8   1.0022809037k 

Hd   n5  n8   Vab  8.29575903566k

Gb   n6  n3   n2  n5  7.2492497599m 

C1   n6  n8    1.03087754949u


.control
op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

*The lines below print a table with all the values

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc
.end


